US04962115
A mixture of 4.8 parts of methyl 4-amino-2-ethoxy-5-nitrobenzoate, 1.6 parts of sodium hydroxide and 30 parts of water was stirred and refluxed for 30 minutes. The reaction mixture was cooled and 50 parts of water were added. The whole was neutralized by the dropwise addition of glacial acetic acid. The precipitated product was filtered off and crystallized from 2-propanol at 0° C. The product was filtered off, washed with a small amount of 2,2'-oxybispropane and dried, yielding 3 parts (66.6%) of 4-amino-2-ethoxy-5-nitrobenzoic acid; mp. 230° C. (intermediate 34).

reactant | methyl 4-amino-2-ethoxy-5-nitrobenzoate | NC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])OCC | C10H12N2O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-amino-2-ethoxy-5-nitrobenzoic acid | 66.6% | NC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OCC | C9H10N2O5
